US07157488B2
3-(2,2,2-Trifluoroethoxy)benzaldehyde
Combine 3-hydroxybenzaldehyde (134.3 g), potassium carbonate (304.0 g), 2,2,2-trifluoroethyl p-toluenesulfonate (293.6 g) and dimethylformamide (2 L). Heat the mixture at 90° C. After 15 hours, cool to room temperature, pour on ice-water, and extract with dichloromethane. Combine the organic layers, wash with 1N sodium hydroxide, and then with water. Dry the organic phase over magnesium sulfate, filter, and concentrate to a residue. Dissolve residue in toluene (200 ml), Chromatograph on silica gel eluting sequentailly with toluene and then ethyl acetate to give a residue. Distill the reside under reduced pressure using a Claisen flask equipped with a Vigreux column gives title compound: bp 0.8 mm Hg, 84–85° C. Redistilling some fractions using a Claisen flask equipped with a Vigreux column and subsequently an adiabatic column filled with Rasching rings gives title compound: bp 0.9–1.0 mm Hg, 74–76° C.

reactant | 3-hydroxybenzaldehyde | 134.3 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 304.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl p-toluenesulfonate | 293.6 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
solvent | dimethylformamide | 2 L | CN(C=O)C | C3H7NO
product | 3-(2,2,2-Trifluoroethoxy)benzaldehyde | FC(COC=1C=C(C=O)C=CC1)(F)F | C9H7F3O2
